US08017809B2
Bis(4,4′-(phenyl-2-pyridylmethoxyboryl)phenyl) ether
The entitled compound (38 mg) was obtained by allowing 42 mg of bis(4,4′-(phenylhydroxyboryl)phenyl) ether and 20 mg of 2-hydroxymethylpyridine to act in 0.25 mL of ethanol.

reactant | bis(4,4′-(phenylhydroxyboryl)phenyl) ether | 42 mg | C1(=CC=CC=C1)B(O)C1=C(C=CC=C1)OC1=C(C=CC=C1)B(O)C1=CC=CC=C1 | C24H20B2O3
reactant | 2-hydroxymethylpyridine | 20 mg | OCC1=NC=CC=C1 | C6H7NO
solvent | ethanol | 0.25 mL | C(C)O | C2H6O
product | Bis(4,4′-(phenyl-2-pyridylmethoxyboryl)phenyl) ether | C1(=CC=CC=C1)B(OCC1=NC=CC=C1)C1=C(C=CC=C1)OC1=C(C=CC=C1)B(OCC1=NC=CC=C1)C1=CC=CC=C1 | C36H30B2N2O3
